US08134001B2
Preparation of intermediate racemic 4-(2-formyl-4-iodo-phenoxy)-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester
To a stirred solution of 2-hydroxy-5-iodo-benzaldehyde (Aldrich, 4.96 g, 20 mmol) in DMF (80 mL), potassium carbobate (10 g, 60 mmol) and 7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid tert-butyl ester (8 g, 40 mmol) were added and the mixture was stirred at 70° C. for three days and 80° C. for two days. The mixture was poured into 1N HCl and the mixture was extracted with EtOAc (3×50 mL). The extracts were combined and dried over sodium sulfate and concentrated to give an oil, which was chromatographied on an ISCO machine (10-30% EtOAc/Hexanes) to yield an oil, 3.4 g. MS (H+), 348.

reactant | 2-hydroxy-5-iodo-benzaldehyde | 20 mmol, 4.96 g | OC1=C(C=O)C=C(C=C1)I | C7H5IO2
reactant | 7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid tert-butyl ester | 40 mmol, 8 g | C(C)(C)(C)OC(=O)N1CC2OC2CC1 | C10H17NO3
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | potassium | [K] | K
product | racemic 4-(2-formyl-4-iodo-phenoxy)-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)OC1=C(C=C(C=C1)I)C=O)O | C17H22INO5
